US04760163
using sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate and methyl iodide there is obtained methyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate, m.p. 138°-141° C.

reactant | sodium 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)[O-])C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O.[Na+]
reactant | methyl iodide | CI | CH3I
product | methyl 2-chloro-4-fluoro-5-(1,2,4,5,6,7-hexahydro-1-methyl-2,4-dioxo-3H-cyclopenta[d]pyrimidin-3-yl)-benzoate | ClC1=C(C(=O)OC)C=C(C(=C1)F)N1C(N(C2=C(C1=O)CCC2)C)=O | C16H14ClFN2O4
